US04783466
2-Cyano-6-phenylpyridine (20 g) was dissolved in a solution of sodium methoxide in methanol prepared from methanol (200 ml) and metallic sodium (0.77 g). After the solution was left to stand overnight, acetic acid (2.0 g) was added thereto, followed by concentration under reduced pressure. The resulting residue was dissolved in ether (200 ml) and insoluble materials were filtered out. The filtrate was concentrated under reduced pressure to obtain methyl 2-picoline imidate.

reactant | 2-Cyano-6-phenylpyridine | 20 g | C(#N)C1=NC(=CC=C1)C1=CC=CC=C1 | C12H8N2
reactant | sodium | 0.77 g | [Na] | Na
reactant | acetic acid | 2.0 g | C(C)(=O)O | C2H4O2
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | methyl 2-picoline imidate | N1=C(C=CC=C1)C(OC)=N | C7H8N2O
